* Z:\mnt\design.r\spice\examples\1683.asc
V1 IN 0 48
C1 IN 0 39µ
XU1 N012 N008 N006 N018 N011 MP_01 N015 N017 N021 NC_02 0 N023 N022 N007 N020 N019 N004 N013 N016 0 LT1683
D1 0 N006 BZX84C8V2L
R1 N007 0 976
R2 IN N007 23.2K
C3 N015 0 1.3n
R3 N017 0 16.9K
R4 N019 0 7K
C4 N022 0 5n
C5 N023 0 .22µ
M§Q1 N009 N012 N018 N018 Si7802DN
C6 N005 N008 5p
L1 IN N001 1m
L2 N009 IN 1m
M§Q2 N001 N016 N018 N018 Si7802DN
C7 N014 N013 5p
R5 N018 0 50m
D2 N002 N003 MBR20100CT
C8 OUT 0 150µ
R6 N021 0 2.5K
R7 OUT N021 7.5K
L3 0 N002 423µ
L4 N010 0 423µ
C9 N001 N014 10p
C10 N014 0 30p
C11 N009 N005 10p
C12 N005 0 30p
R8 N011 0 500
V2 N004 0 10
R9 N020 0 7K
D3 N010 N003 MBR20100CT
Rload OUT 0 2.5
L5 N003 OUT 22µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2.5m startup
K1 L1 L2 L3 L4 1
.lib LT1683.sub
.backanno
.end
